US07160888B2
Synthesis of 7-{4-[4-(1,3-Dihydro-isobenzofuran-4-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one
To a suspension of 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (0.257 g, 1.107 mmol, 1.1 eq) and 1-(1,3-dihydro-isobenzofuran-4-yl)-piperazine (0.204 g, 0.998 mmol, 1 eq) in dichloroethane (5 mL) was added NaBH(OAc)3 (0.433 g, 2.043 mmol, 1.84 eq). The slurry was allowed to stir overnight at room temperature (18 h). The mixture was diluted with EtOAc and quenched with saturated NaHCO3. The organic phase was then washed with brine, dried over Na2SO4, filtered and evaporated in vacuo. Purification by silica gel chromatography (2% MeOH/CH2Cl2) followed by formation of the HCl salt using 1N HCl in ether provided the title compound (0.064 g, 12%). CHN Found: C, 64.37; H, 6.54; N, 12.13. This calculates out for C24H28N4O3×0.74HCl.

reactant | 4-(7-oxo-7,8-dihydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.107 mmol, 0.257 g, 1.1 eq | O=C1C=CC=2C=CC(=NC2N1)OCCCC=O | C12H12N2O3
reactant | 1-(1,3-dihydro-isobenzofuran-4-yl)-piperazine | 0.998 mmol, 0.204 g, 1 eq | C1OCC2=C(C=CC=C12)N1CCNCC1 | C12H16N2O
reactant | NaBH(OAc)3 | 2.043 mmol, 0.433 g, 1.84 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-{4-[4-(1,3-Dihydro-isobenzofuran-4-yl)-piperazin-1-yl]-butoxy}-1H-[1,8]naphthyridin-2-one | 0.064 g, 12% | C1OCC2=C(C=CC=C12)N1CCN(CC1)CCCCOC1=CC=C2C=CC(NC2=N1)=O | C24H28N4O3
